US07259266B2
Step 2. Preparation of ethyl 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of 6.8 g (20.6 mmol) of ethyl 6-ethyl-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate in 30 mL of anhydrous DCM at −78° C. in dry ice/acetone bath was added dropwise a solution of 206 ml (1.0 M in DCM, 206 mmol) of boron tribromide. After finishing addition, the dry ice/acetone bath was removed. The reaction was stirred at room temperature overnight. The reaction was cooled back to −78° C. in dry ice/acetone bath and treated dropwise with 250 mL of methanol. The reaction was allowed to warm to room temperature and subsequently concd in vacuo. The residue was purified by silica chromatography with EtOAc/hexane (2:8). The collected fractions were concd and used directly in step 3.

reactant | ethyl 6-ethyl-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 20.6 mmol, 6.8 g | C(C)C=1C=C2C=C(C(OC2=CC1OC)C(F)(F)F)C(=O)OCC | C16H17F3O4
reactant | boron tribromide | 206 mmol, 1.0 M, 206 ml | B(Br)(Br)Br | BBr3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | ethyl 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C(C)C=1C=C2C=C(C(OC2=CC1O)C(F)(F)F)C(=O)OCC | C15H15F3O4
